US07544688B2
B. 5-[3-(4-Benzyl-2,6-dioxo-piperazin-1-yl)-prop-1-ynyl]-4-(2,2-dimethyl-propylamino)-pyrimidine-2-carbonitrile
To a solution of 4-benzyl-1-prop-2-ynyl-piperazine-2,6-dione (1.5 mmol) and 5-bromo-4-(2,2-dimethyl-propylamino)-pyrimidine-2-carbonitrile (1 mmol) in DMF (5 ml), triethylamine (3.0 mmol), dichlorobis(triphenylphosphine)palladium (II) (0.1 mmol) and copper (I) iodide (0.2 mmol) are added. The reaction mixture is heated at 85° C. ca. for 1 day. Saturated aqueous solution of ammonium chloride is added to the reaction mixture and then aqueous layer is extracted with two 50 ml portions of AcOEt. The combined extracts are washed with brine, dried over magnesium sulfate and concentrated under vacuum to give crude product, which is purified by silica gel column chromatography. Yield: 93%. Rf=0.3 (AcOEt only)

reactant | 4-benzyl-1-prop-2-ynyl-piperazine-2,6-dione | 1.5 mmol | C(C1=CC=CC=C1)N1CC(N(C(C1)=O)CC#C)=O | C14H14N2O2
reactant | 5-bromo-4-(2,2-dimethyl-propylamino)-pyrimidine-2-carbonitrile | 1 mmol | BrC=1C(=NC(=NC1)C#N)NCC(C)(C)C | C10H13BrN4
reactant | triethylamine | 3.0 mmol | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium | 0.1 mmol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.2 mmol | [Cu]I
product | 5-[3-(4-Benzyl-2,6-dioxo-piperazin-1-yl)-prop-1-ynyl]-4-(2,2-dimethyl-propylamino)-pyrimidine-2-carbonitrile | Yield: 93% | C(C1=CC=CC=C1)N1CC(N(C(C1)=O)CC#CC=1C(=NC(=NC1)C#N)NCC(C)(C)C)=O | C24H26N6O2
